US06288103B1
Methyl N-(3,4-dichlorophenylsulphonyl)4-hydroxyindole-2-carboxylate
Aqueous sodium hydrogencarbonate solution (16 ml, 50%) was added to methyl 4-acetoxy-N-(3,4-dichlorophenylsulphonyl)indole-2-carboxylate (0.63 g) in methanol (15 ml) and the reaction stirred for 48 hours at room temperature. The solution was then poured into 2M HCl and extracted with ethyl acetate. Combined organic extracts were dried (MgSO4) and concentrated in vacuo to give the desired product as a gum (0.5 g, 87%); NMR δ (CD3SOCD3) 3.83 (s, 3H), 6.71 (d, 1H), 7.31 (t, 1H), 7.42-7.5 (m, 2H), 7.92 (s, 1H), 10.31 (s, 1H); M/z (+) 402 (MH+), 400.

reactant | sodium hydrogencarbonate | 16 ml | C(O)([O-])=O.[Na+]
reactant | methyl 4-acetoxy-N-(3,4-dichlorophenylsulphonyl)indole-2-carboxylate | 0.63 g | C(C)(=O)OC1=C2C=C(N(C2=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C(=O)OC | C18H13Cl2NO6S
reactant | HCl | 2M | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | Methyl N-(3,4-dichlorophenylsulphonyl)4-hydroxyindole-2-carboxylate | 0.5 g, 87% | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(=CC2=C(C=CC=C12)O)C(=O)OC | C16H11Cl2NO5S
